US05162316
7-Methylthio-2-(2-cyclopropylmethoxyphenyl) 4-oxo 3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 4 reaction of ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate (1.50 g) with 2-cyclopropylmethoxybenzamidine hydrochloride (1.45 g) and triethylamine (1.30 g) in acetonitrile (50 ml) yielded a white solid (1.18 g) which was collected, dissolved in chloroform and the chloroform solution was extracted twice with 2 Normal hydrochloric acid. The chloroform solution was evaporated under reduced pressure and the residue was recrystallised from ethanol to yield the title compound, 0.52 g, m.p. 186°-187° C.

reactant | ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate | 1.50 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | 2-cyclopropylmethoxybenzamidine hydrochloride | 1.45 g | Cl.C1(CC1)COC1=C(C(=N)N)C=CC=C1
reactant | triethylamine | 1.30 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-Methylthio-2-(2-cyclopropylmethoxyphenyl) 4-oxo 3,4-dihydropyrimido[4,5-d]pyrimidine | 1.18 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCC2CC2 | C17H16N4O2S
